US04032601
Phenyl [1-(p-tolylsulfonylamino)ethyl]phenylphosphinate
A mixture of 0.15 mole each of diphenyl phenylphosphonite, acetaldehyde, and p-toluenesulfonamide in 100 g of chlorobenzene is stirred and warmed at 103°-115° C. for 1 hr, and the solvent and by-product phenol are removed by concentration of the reaction mixture to 120° at 0.5 mm. Ether is stirred into the residue, causing separation of 49.4g (79% yield) of solid product. Recrystallization twice from chlorobenzene gives a white solid: mp 178°-181°; 31P nmr (DMSO-d6)- 37.7 ppm.

reactant | diphenyl phenylphosphonite | 0.15 mole | C1(=CC=CC=C1)P(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O2P
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | p-toluenesulfonamide | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
solvent | chlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | Phenyl [1-(p-tolylsulfonylamino)ethyl]phenylphosphinate | 49.4g, 79% yield | C1(=CC=C(C=C1)S(=O)(=O)NC(C)P(OC1=CC=CC=C1)(=O)C1=CC=CC=C1)C | C21H22NO4PS
